* hitkit post processing done
************************************************************************
* auCdl Netlist:
* 
* Library Name:  Potentiostat
* Top Cell Name: 6_TIA_Front_Layout
* View Name:     schematic
* Netlisted on:  May 28 16:04:15 2026
************************************************************************

*.EQUATION
*.LDD
*.SCALE METER
*.MEGA
.PARAM



************************************************************************
* Library Name: PRIMLIB
* Cell Name:    cpolyc
* View Name:    schematic
************************************************************************

.SUBCKT cpolyc MINUS PLUS SUB area=100p perimeter=40u
*.PININFO MINUS:B PLUS:B SUB:B
CC1 MINUS SUB $[CP]
CC0 MINUS PLUS $[CPOLYA] $P=(perimeter)*1e+6 $A=(area)*1e+12
.ENDS

************************************************************************
* Library Name: Potentiostat
* Cell Name:    6_TIA_Front_Layout
* View Name:    schematic
************************************************************************

.SUBCKT 6_TIA_Front_Layout GNDA Ibias VDDA Vin+ Vin- Vout
*.PININFO GNDA:B Ibias:B VDDA:B Vin+:B Vin-:B Vout:B
MMN22<0> GNDA GNDA GNDA GNDA nmos4 W=5u M=1 L=20u
MMN22<1> GNDA GNDA GNDA GNDA nmos4 W=5u L=20u M=1
MMN19<0> Vm3 Ibias o1 GNDA nmos4 M=4 L=4u W=1u
MMN19<1> Vm3 Ibias o1 GNDA nmos4 L=4u M=4 W=1u
MMN21<0> Vm1 Vm1 Vm1 GNDA nmos4 W=1u L=4u M=1
MMN21<1> Vm1 Vm1 Vm1 GNDA nmos4 M=1 L=4u W=1u
MMN11<0> Vm1 Vm1 GNDA GNDA nmos4 W=1u M=1 L=4u
MMN11<1> Vm1 Vm1 GNDA GNDA nmos4 L=4u M=1 W=1u
MMN11<2> Vm1 Vm1 GNDA GNDA nmos4 L=4u M=1 W=1u
MMN11<3> Vm1 Vm1 GNDA GNDA nmos4 M=1 L=4u W=1u
MMN15 Vout D2 GNDA GNDA nmos4 M=10 L=2u W=10u
MMN14 D2 D1 GNDA GNDA nmos4 M=1 L=20u W=5u
MMN13 D1 D1 GNDA GNDA nmos4 M=1 L=20u W=5u
MMN20<0> o1 Vm1 GNDA GNDA nmos4 W=1u M=1 L=4u
MMN20<1> o1 Vm1 GNDA GNDA nmos4 W=1u L=4u M=1
MMN20<2> o1 Vm1 GNDA GNDA nmos4 M=1 L=4u W=1u
MMN20<3> o1 Vm1 GNDA GNDA nmos4 W=1u L=4u M=1
MMN20<4> o1 Vm1 GNDA GNDA nmos4 M=1 L=4u W=1u
MMN20<5> o1 Vm1 GNDA GNDA nmos4 M=1 L=4u W=1u
MMN20<6> o1 Vm1 GNDA GNDA nmos4 M=1 L=4u W=1u
MMN20<7> o1 Vm1 GNDA GNDA nmos4 W=1u L=4u M=1
MMN7 Ibias Ibias Vm1 GNDA nmos4 W=1u L=4u M=4
MMP24<0> VDDA VDDA VDDA VDDA pmos4 W=1u M=1 L=10u
MMP24<1> VDDA VDDA VDDA VDDA pmos4 L=10u M=1 W=1u
MMP24<2> VDDA VDDA VDDA VDDA pmos4 M=1 L=10u W=1u
MMP24<3> VDDA VDDA VDDA VDDA pmos4 W=1u M=1 L=10u
MMP24<4> VDDA VDDA VDDA VDDA pmos4 W=1u M=1 L=10u
MMP24<5> VDDA VDDA VDDA VDDA pmos4 M=1 L=10u W=1u
MMP24<6> VDDA VDDA VDDA VDDA pmos4 W=1u M=1 L=10u
MMP24<7> VDDA VDDA VDDA VDDA pmos4 W=1u L=10u M=1
MMP24<8> VDDA VDDA VDDA VDDA pmos4 M=1 L=10u W=1u
MMP24<9> VDDA VDDA VDDA VDDA pmos4 L=10u M=1 W=1u
MMP24<10> VDDA VDDA VDDA VDDA pmos4 L=10u M=1 W=1u
MMP24<11> VDDA VDDA VDDA VDDA pmos4 W=1u M=1 L=10u
MMP24<12> VDDA VDDA VDDA VDDA pmos4 W=1u M=1 L=10u
MMP24<13> VDDA VDDA VDDA VDDA pmos4 M=1 L=10u W=1u
MMP24<14> VDDA VDDA VDDA VDDA pmos4 M=1 L=10u W=1u
MMP24<15> VDDA VDDA VDDA VDDA pmos4 M=1 L=10u W=1u
MMP24<16> VDDA VDDA VDDA VDDA pmos4 W=1u M=1 L=10u
MMP24<17> VDDA VDDA VDDA VDDA pmos4 L=10u M=1 W=1u
MMP24<18> VDDA VDDA VDDA VDDA pmos4 W=1u L=10u M=1
MMP24<19> VDDA VDDA VDDA VDDA pmos4 W=1u M=1 L=10u
MMP24<20> VDDA VDDA VDDA VDDA pmos4 L=10u M=1 W=1u
MMP24<21> VDDA VDDA VDDA VDDA pmos4 M=1 L=10u W=1u
MMP24<22> VDDA VDDA VDDA VDDA pmos4 L=10u M=1 W=1u
MMP24<23> VDDA VDDA VDDA VDDA pmos4 M=1 L=10u W=1u
MMP24<24> VDDA VDDA VDDA VDDA pmos4 M=1 L=10u W=1u
MMP24<25> VDDA VDDA VDDA VDDA pmos4 L=10u M=1 W=1u
MMP24<26> VDDA VDDA VDDA VDDA pmos4 M=1 L=10u W=1u
MMP24<27> VDDA VDDA VDDA VDDA pmos4 W=1u L=10u M=1
MMP24<28> VDDA VDDA VDDA VDDA pmos4 W=1u L=10u M=1
MMP24<29> VDDA VDDA VDDA VDDA pmos4 W=1u M=1 L=10u
MMP24<30> VDDA VDDA VDDA VDDA pmos4 W=1u M=1 L=10u
MMP24<31> VDDA VDDA VDDA VDDA pmos4 W=1u M=1 L=10u
MMP24<32> VDDA VDDA VDDA VDDA pmos4 W=1u L=10u M=1
MMP24<33> VDDA VDDA VDDA VDDA pmos4 L=10u M=1 W=1u
MMP23<0> VDDA VDDA VDDA VDDA pmos4 W=10u L=4u M=1
MMP23<1> VDDA VDDA VDDA VDDA pmos4 W=10u L=4u M=1
MMP23<2> VDDA VDDA VDDA VDDA pmos4 W=10u M=1 L=4u
MMP23<3> VDDA VDDA VDDA VDDA pmos4 M=1 L=4u W=10u
MMP21<0> Vout Vm3 VDDA VDDA pmos4 L=10u M=1 W=1u
MMP21<1> Vout Vm3 VDDA VDDA pmos4 W=1u L=10u M=1
MMP21<2> Vout Vm3 VDDA VDDA pmos4 M=1 L=10u W=1u
MMP21<3> Vout Vm3 VDDA VDDA pmos4 M=1 L=10u W=1u
MMP21<4> Vout Vm3 VDDA VDDA pmos4 W=1u M=1 L=10u
MMP21<5> Vout Vm3 VDDA VDDA pmos4 L=10u M=1 W=1u
MMP21<6> Vout Vm3 VDDA VDDA pmos4 M=1 L=10u W=1u
MMP21<7> Vout Vm3 VDDA VDDA pmos4 W=1u M=1 L=10u
MMP21<8> Vout Vm3 VDDA VDDA pmos4 L=10u M=1 W=1u
MMP21<9> Vout Vm3 VDDA VDDA pmos4 W=1u M=1 L=10u
MMP21<10> Vout Vm3 VDDA VDDA pmos4 W=1u L=10u M=1
MMP21<11> Vout Vm3 VDDA VDDA pmos4 M=1 L=10u W=1u
MMP21<12> Vout Vm3 VDDA VDDA pmos4 W=1u L=10u M=1
MMP21<13> Vout Vm3 VDDA VDDA pmos4 W=1u L=10u M=1
MMP21<14> Vout Vm3 VDDA VDDA pmos4 L=10u M=1 W=1u
MMP21<15> Vout Vm3 VDDA VDDA pmos4 M=1 L=10u W=1u
MMP21<16> Vout Vm3 VDDA VDDA pmos4 M=1 L=10u W=1u
MMP21<17> Vout Vm3 VDDA VDDA pmos4 W=1u L=10u M=1
MMP21<18> Vout Vm3 VDDA VDDA pmos4 W=1u L=10u M=1
MMP21<19> Vout Vm3 VDDA VDDA pmos4 M=1 L=10u W=1u
MMP21<20> Vout Vm3 VDDA VDDA pmos4 L=10u M=1 W=1u
MMP21<21> Vout Vm3 VDDA VDDA pmos4 M=1 L=10u W=1u
MMP21<22> Vout Vm3 VDDA VDDA pmos4 W=1u M=1 L=10u
MMP21<23> Vout Vm3 VDDA VDDA pmos4 W=1u L=10u M=1
MMP21<24> Vout Vm3 VDDA VDDA pmos4 W=1u M=1 L=10u
MMP21<25> Vout Vm3 VDDA VDDA pmos4 W=1u M=1 L=10u
MMP21<26> Vout Vm3 VDDA VDDA pmos4 L=10u M=1 W=1u
MMP21<27> Vout Vm3 VDDA VDDA pmos4 W=1u M=1 L=10u
MMP21<28> Vout Vm3 VDDA VDDA pmos4 M=1 L=10u W=1u
MMP21<29> Vout Vm3 VDDA VDDA pmos4 M=1 L=10u W=1u
MMP21<30> Vout Vm3 VDDA VDDA pmos4 M=1 L=10u W=1u
MMP21<31> Vout Vm3 VDDA VDDA pmos4 W=1u M=1 L=10u
MMP21<32> Vout Vm3 VDDA VDDA pmos4 W=1u M=1 L=10u
MMP21<33> Vout Vm3 VDDA VDDA pmos4 M=1 L=10u W=1u
MMP21<34> Vout Vm3 VDDA VDDA pmos4 M=1 L=10u W=1u
MMP21<35> Vout Vm3 VDDA VDDA pmos4 M=1 L=10u W=1u
MMP21<36> Vout Vm3 VDDA VDDA pmos4 L=10u M=1 W=1u
MMP21<37> Vout Vm3 VDDA VDDA pmos4 W=1u L=10u M=1
MMP21<38> Vout Vm3 VDDA VDDA pmos4 W=1u M=1 L=10u
MMP21<39> Vout Vm3 VDDA VDDA pmos4 L=10u M=1 W=1u
MMP11<0> D2 Vin+ S VDDA pmos4 W=10u L=4u M=1
MMP11<1> D2 Vin+ S VDDA pmos4 W=10u L=4u M=1
MMP11<2> D2 Vin+ S VDDA pmos4 L=4u M=1 W=10u
MMP11<3> D2 Vin+ S VDDA pmos4 L=4u M=1 W=10u
MMP11<4> D2 Vin+ S VDDA pmos4 M=1 L=4u W=10u
MMP11<5> D2 Vin+ S VDDA pmos4 W=10u L=4u M=1
MMP11<6> D2 Vin+ S VDDA pmos4 M=1 L=4u W=10u
MMP11<7> D2 Vin+ S VDDA pmos4 L=4u M=1 W=10u
MMP11<8> D2 Vin+ S VDDA pmos4 W=10u M=1 L=4u
MMP11<9> D2 Vin+ S VDDA pmos4 W=10u L=4u M=1
MMP10<0> D1 Vin- S VDDA pmos4 M=1 L=4u W=10u
MMP10<1> D1 Vin- S VDDA pmos4 W=10u L=4u M=1
MMP10<2> D1 Vin- S VDDA pmos4 M=1 L=4u W=10u
MMP10<3> D1 Vin- S VDDA pmos4 M=1 L=4u W=10u
MMP10<4> D1 Vin- S VDDA pmos4 M=1 L=4u W=10u
MMP10<5> D1 Vin- S VDDA pmos4 M=1 L=4u W=10u
MMP10<6> D1 Vin- S VDDA pmos4 W=10u L=4u M=1
MMP10<7> D1 Vin- S VDDA pmos4 W=10u L=4u M=1
MMP10<8> D1 Vin- S VDDA pmos4 M=1 L=4u W=10u
MMP10<9> D1 Vin- S VDDA pmos4 L=4u M=1 W=10u
MMP20<0> S Vm3 VDDA VDDA pmos4 W=1u L=10u M=1
MMP20<1> S Vm3 VDDA VDDA pmos4 L=10u M=1 W=1u
MMP20<2> S Vm3 VDDA VDDA pmos4 W=1u M=1 L=10u
MMP20<3> S Vm3 VDDA VDDA pmos4 L=10u M=1 W=1u
MMP20<4> S Vm3 VDDA VDDA pmos4 L=10u M=1 W=1u
MMP20<5> S Vm3 VDDA VDDA pmos4 L=10u M=1 W=1u
MMP20<6> S Vm3 VDDA VDDA pmos4 W=1u M=1 L=10u
MMP20<7> S Vm3 VDDA VDDA pmos4 W=1u L=10u M=1
MMP15<0> Vm3 Vm3 VDDA VDDA pmos4 W=1u L=10u M=1
MMP15<1> Vm3 Vm3 VDDA VDDA pmos4 M=1 L=10u W=1u
MC1 Vm1 GNDA Vm1 GNDA CVAR L=650.00n W=343.2u
MC0 Ibias GNDA Ibias GNDA CVAR L=650.00n W=343.2u
CC5<0> Vout net24 $[CPOLYA] $P=(214.9u)*1e+6 $A=(2.89n)*1e+12
CC5<1> Vout net24 $[CPOLYA] $P=(214.9u)*1e+6 $A=(2.89n)*1e+12
CC5<2> Vout net24 $[CPOLYA] $P=(214.9u)*1e+6 $A=(2.89n)*1e+12
CC5<3> Vout net24 $[CPOLYA] $P=(214.9u)*1e+6 $A=(2.89n)*1e+12
RR7 net24 D2 $[RPOLYH] $L=30u $W=2u
.ENDS

